US09302991B2
<Step-1>: 2-amino-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide (single enantiomer)
The title compound is prepared in 36% yield (95 mg, clear pale yellow oil) from 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (200 mg, 0.74 mmol, Amine-17, single enantiomer) and 2-aminopyrimidine-4-carboxylic acid (103 mg, 0.74 mmol) by the similar manner in Step-1 of Example 8.

reactant | 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.74 mmol, 200 mg | Cl.CC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-aminopyrimidine-4-carboxylic acid | 0.74 mmol, 103 mg | NC1=NC=CC(=N1)C(=O)O | C5H5N3O2
product | 2-amino-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide | 36% yield | NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)C)OCC(F)(F)F | C15H16F3N5O2
